US04470988
A solution of 4,5-dihydro-1-benzazocin-2,6-(1H,3H)dione (14.2 g), Tetrahedron Letters 4079-4082 (1976), and sodium borohydride (1.4 g) in ethanol (720 ml) is stirred at room temperature for 18 hours. The ethanol is removed under reduced pressure, and the residue dissolved in dichloromethane (350 ml). The solution is extracted with 2N hydrochloric acid (2×200 ml) and saturated brine (100 ml), and dried over sodium sulfate. The solvent is removed under reduced pressure to give 6-hydroxy-3,4,5,6-tetrahydro-1-benzazocin-2-(1H)-one.

reactant | 4,5-dihydro-1-benzazocin-2,6-(1H,3H)dione | 14.2 g | N1C(CCCC(C2=C1C=CC=C2)=O)=O | C11H11NO2
reactant | sodium borohydride | 1.4 g | [BH4-].[Na+]
solvent | ethanol | 720 ml | C(C)O | C2H6O
product | 6-hydroxy-3,4,5,6-tetrahydro-1-benzazocin-2-(1H)-one | OC1CCCC(NC2=C1C=CC=C2)=O | C11H13NO2
